US08106090B2
[(1R,2S)-3-(Acetyl-methyl-amino)-1-(2,5-difluoro-benzyl)-2-hydroxy-propyl]-carbamic acid tert-butyl ester
Using general procedure 5 with [(1R,2S)-1-(2,5-difluoro-benzyl)-2-hydroxy-3-methylamino-propyl]-carbamic acid tert-butyl ester (0.107 g, 0.32 mmol) and acetyl chloride (0.020 mL, 0.32 mmol) gives the title compound.

reactant | [(1R,2S)-1-(2,5-difluoro-benzyl)-2-hydroxy-3-methylamino-propyl]-carbamic acid tert-butyl ester | 0.32 mmol, 0.107 g | C(C)(C)(C)OC(N[C@@H]([C@H](CNC)O)CC1=C(C=CC(=C1)F)F)=O | C16H24F2N2O3
reactant | acetyl chloride | 0.32 mmol, 0.020 mL | C(C)(=O)Cl | C2H3ClO
product | [(1R,2S)-3-(Acetyl-methyl-amino)-1-(2,5-difluoro-benzyl)-2-hydroxy-propyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]([C@H](CN(C)C(C)=O)O)CC1=C(C=CC(=C1)F)F)=O | C18H26F2N2O4
